* sfh2400.sub
* Helmut Sennewald, 16.05.2005

* A=Anode, K=Cathode, L=control current input
* Pin L: apply a current I = Efficiency(lambda)*Optical_power
*        This input is referenced to common ground("0").
*
.subckt sfh2400 A K L
R0 L 0 1T
C0 K A 1.8p
Rsh K A 25G
V1 L 0 0
F1 0 N001 value={if(I(V1)>0, 2e4*I(V1),0)}
R1 N001 0 1
C1 N002 0 4.5n
G1 K A N002 0 1e-4
L1 N001 N002 0.8n
R2 N002 0 1
D1 A K SFH2400DIO
.model SFH2400DIO D(Is=100p  N=1.3 Eg=1.0 Rs=8 Bv=35 Ibv=1u Cjo=9.2p Vj=0.6 M=0.9 )
.ends sfh2400 

* The same model but with a reference pin for the control input current
.subckt sfh2400_4 A K L G
R0 L G 1T
C0 K A 1.8p
Rsh K A 25G
V1 L G 0
F1 0 N001 value={if(I(V1)>0, 2e4*I(V1),0)}
R1 N001 0 1
C1 N002 0 4.5n
G1 K A N002 0 1e-4
L1 N001 N002 0.8n
R2 N002 0 1
D1 A K SFH2400DIO
.model SFH2400DIO D(Is=100p  N=1.3 Eg=1.0 Rs=8 Bv=35 Ibv=1u Cjo=9.2p Vj=0.6 M=0.9 )
.ends sfh2400_4

