* D:\_VAIO_LTSPICE\0\4 Gerds fuse\Fuse_Fit_littelfuse\Fuse_FIT.asc
D2 1 N001 Dcl
V1 N001 0 10
XX7 1 0 fuse_model_nn
XX8 2 0 fuse_model_nn
XX9 3 0 fuse_model_nn
XX10 4 0 fuse_model_nn
XX11 5 0 fuse_model_nn
XX12 6 0 fuse_model_nn
D1 2 N001 Dcl
D3 3 N001 Dcl
D4 4 N001 Dcl
D5 5 N001 Dcl
D6 6 N001 Dcl
Vtreference Tw 0 PWL(0 {vtw0} {t1w-t1w*wf} {vtw0} {t1w} {vtw} {t1w+t1w*wf} {vtw0} {t2w-t2w*wf} {vtw0} {t2w} {vtw} {t2w+t2w*wf} {vtw0} {t3w-t3w*wf} {vtw0} {t3w} {vtw} {t3w+t3w*wf} {vtw0} {t4w-t4w*wf} {vtw0} {t4w} {vtw} {t4w+t4w*wf} {vtw0} {t5w-t5w*wf} {vtw0} {t5w} {vtw} {t5w+t5w*wf} {vtw0} {t6w-t6w*wf} {vtw0} {t6w} {vtw} {t6w+t6w*wf} {vtw0})
I2 0 2 {I2}
I3 0 3 {I3}
I4 0 4 {I4}
I5 0 5 {I5}
I6 0 6 PULSE(0 {I6} 0 1n 1n 1E6)
I1 0 1 {I1}

* block symbol definitions
.subckt fuse_model_nn A B
V2 N004 N005 0
BdTemp 0 dTemp I=I(V2)*I(V2)*R0*(1+ALPHA*ABS(V(dTemp)))
R_th1 dTemp N001 {R_TH1}
C_th1 dTemp 0 {C_TH1}
S1 N005 B Qneg 0 SW1
R_th2 N001 N002 {R_TH2}
C_th2 N001 0 {C_TH2}
A1 set_break 0 0 0 0 Qneg 0 0 SRFLOP
C_th3 N002 0 {C_TH3}
Bbreak 0 set_break I=1m
R3 set_break 0 1k
R_th3 N002 N003 {R_TH3}
B1 A N004 V=I(V2)*{R0}*(1+{ALPHA}*V(dTemp))
V1 N003 0 {T_AMB}
S2 set_break 0 dTemp 0 SW2
V3 cl1 0 PULSE(0 {dT_MAX+2} 10n 10n 10n 1E5)
D1 dTemp cl1 Dcl1
.MODEL SW1 SW(Ron=1u Roff=1G Vt=0.5 Vh=-0.4)
.param dT_MAX=1000        ; Melting temperature
.param T_AMB=0                ; Ambient temperature
.param P_BREAK=R_BREAK*I_BREAK*I_BREAK
.param R_TH=(dT_MAX/P_BREAK)
.param ALPHA=(R_BREAK-R0)/R0/dT_MAX
.param R_TH1=R_TH*gth1
.param R_TH2=R_TH*gth2
.param R_TH3=R_TH*(1-gth1-gth2)
.param C_TH1=TAU1/R_TH1
.param C_TH2=TAU2/R_TH2
.param C_TH3=TAU3/R_TH3
.MODEL SW2 SW(Ron=1G Roff=1m Vt={dT_MAX} Vh=1m)
.model Dcl1 D(Vfwd=0 Ron=1u Roff=1G)
.ends fuse_model_nn

.model D D
.lib C:\PROGRA~1\LTC\LTSPIC~1\lib\cmp\standard.dio
.tran {tstop}
.options plotwinsize=0
.param gth1=0.02 gth2=0.725 ;rel.weight of therm.time-constants
.param R0=0.153    ;R_fuse at no current
.param R_BREAK=0.153 ;R_fuse before breaking (not known)
.param I2t=0.459  ; A**2 *t
*
;--- currents and specified opening times:
.params I1 = 23.5  t1w=1m
;   .params I1 = 30  t1w=I2t/30/30
;  .params I2= 12.5 t2w=3m
.params I2= 15.6 t2w=2m
.params I3=6.9 t3w=10m
.params I4=2.37 t4w=100m
.params I5=1.52 t5w=1
.params I6=1.405 t6w=10
 *
*--- fuse model time constants and breaking_current(t->inf)
;.params TAU1opt=4.7m TAU2opt=4.1m TAU3opt=0.8 IBopt=1.404
.params TAU1opt=1.5m TAU2opt=3m TAU3opt=0.2 IBopt=1.405
*-- model parameters to be replaced by the optimizer:
.params TAU1={TAU1opt}  ;range usec
.params TAU2={TAU2opt}  ;range msec
.params TAU3={TAU3opt}  ;range seconds
.params I_BREAK={IBopt}  ;set optimizer limits < +/-5%, iterate init-values!
*--- measuring opening times ( like this because a result is needed
*   also when fuse fails to open! )
.meas tran v1max max V(1) targ time val=tstop*0.95
.meas tran t1 find time when V(1)=v1max rise=1
.meas tran v2max max V(2) targ time val=tstop*0.95
.meas tran t2 find time when V(2)=v2max rise=1
.meas tran v3max max V(3) targ time val=tstop*0.95
.meas tran t3 find time when V(3)=v3max
.meas tran v4max max V(4) targ time val=tstop*0.95
.meas tran t4 find time when V(4)=v4max
.meas tran v5max max V(5) targ time val=tstop*0.95
.meas tran t5 find time when V(5)=v5max
.meas tran v6max max V(6) targ time val=tstop*0.95
.meas tran t6 find time when V(6)=v6max
*---relative deviations of measured opening times
.meas tran d1 param (t1-t1w)/t1w
.meas tran d2 param (t2-t2w)/t2w
.meas tran d3 param (t3-t3w)/t3w
.meas tran d4 param (t4-t4w)/t4w
.meas tran d5 param (t5-t5w)/t5w
.meas tran d6 param (t6-t6w)/t6w
*--deviations for long  opening times are weighted less
.meas cost param d1**2+d2**2+d3**2
+ +0.4*d4**2 +0.2*d5**2 +0.05*d6**2
.model Dcl D(Vfwd=0)
;set tstop >=2 * max_opening_time considered
.param tstop=30
* Fuse data:\nLittelfuse R451/0453, Inom=1A\nData from t(I)-graph:\n1ms 23.5A\n2ms 15.6A\n3ms 12.5A\n5ms 9A\n10ms 6.9A\n100ms 2.37A\n200ms 1.9A\n1s 1.52A\n3s 1.42A\n10s 1.405A\n1E4s 1.405A
* Optimizing a Fuse based on the Model by Helmut Sennewald, june-05\nUsing Friedrich Schmitt's PERL optimizer. G.Mi/June-05
;parameters for reference scale
.params vtw=6 vtw0=3 wf=0.15 ;+/-rel. width 15%
.backanno
.end
